US05254558
Dimethyl methoxymethylenemalonate and N-(2,2-dimethoxy-ethyl) -3-pyridinecarboxamidine were subjected to a procedure similar to that described in Example 1.b. Chromatography, with methanol:diethyl ether (gradient, 0:100, 10:90) as the eluent, gave methyl 1-(2,2-dimethoxy-ethyl)-2-(3-pyridyl)pyrimidin-6(1H)-one-5-carboxylate as an oil; MS: m/z=320(M+1); TLC: Rf =0.4, methanol:diethyl ether (5:95).

reactant | Dimethyl methoxymethylenemalonate | COC=C(C(=O)OC)C(=O)OC | C7H10O5
reactant | N-(2,2-dimethoxy-ethyl) -3-pyridinecarboxamidine | COC(CNC(=N)C=1C=NC=CC1)OC | C10H15N3O2
reactant | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 1-(2,2-dimethoxy-ethyl)-2-(3-pyridyl)pyrimidin-6(1H)-one-5-carboxylate | COC(CN1C(=NC=C(C1=O)C(=O)OC)C=1C=NC=CC1)OC | C15H17N3O5
